US08557805B2
Ethyl 7-hydroxy-5-[4-(methylsulfonyl)phenoxy]-1H-indole-2-carboxylate
Ethyl 7-(benzyloxy)-5-[4-(methylsulfonyl)phenoxy]-1H-indole-2-carboxylate (0.40 g) was dissolved in a tetrahydrofuran (5 mL)-ethanol (5 mL) mixed solvent, 10% palladium-carbon (containing water (50%), 0.80 g) was added, and the mixture was stirred under a hydrogen atmosphere at room temperature for 4 hr. The reaction mixture was filtered, and the filtrate was concentrated under reduced pressure. The residue was crystallized from diethyl ether and the obtained solid was washed with a diethyl ether-hexane mixed solvent to give the title compound (0.31 g, yield 96%) as a pale-yellow solid. The pale-yellow solid was recrystallized from ethanol-hexane to give pale-yellow crystals.

reactant | Ethyl 7-(benzyloxy)-5-[4-(methylsulfonyl)phenoxy]-1H-indole-2-carboxylate | 0.40 g | C(C1=CC=CC=C1)OC=1C=C(C=C2C=C(NC12)C(=O)OCC)OC1=CC=C(C=C1)S(=O)(=O)C | C25H23NO6S
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | ethanol | 5 mL | C(C)O | C2H6O
catalyst | palladium-carbon | 0.80 g | [C].[Pd]
product | Ethyl 7-hydroxy-5-[4-(methylsulfonyl)phenoxy]-1H-indole-2-carboxylate | 0.31 g, yield 96% | OC=1C=C(C=C2C=C(NC12)C(=O)OCC)OC1=CC=C(C=C1)S(=O)(=O)C | C18H17NO6S
